US05734049
(S)-7-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,3,4,6,7,8,12b-octahydro-6-oxopyrido[2,1-a][2]benzazepine-4-carboxylic acid
Combine (S)-7-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,6,7,8,12b-hexahydro-6-oxopyrido[2,1-a][2]benzazepine (32 mg, 0.09 mmol) and sulfuric acid (1.0 mL, 95-98%) in a pressure vessel. Add 96% formic acid (200 μL) and quickly seal the vessel. After 18 hours, add water (10 mL). Extract the reaction mixture with ethyl acetate. Extract the organic layer with saturated aqueous potassium carbonate solution (5×10 mL). Combine the aqueous layers and carefully acidify with aqueous 12M hydrochloric acid solution. Extract with chloroform (5×15 mL). Combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 2/1 ethyl acetate/hexane containing 0.5% acetic acid to give the title compound. Rf =0.14 (silica gel, 2/1 ethyl acetate/hexane containing 0.5% acetic acid).

reactant | (S)-7-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,6,7,8,12b-hexahydro-6-oxopyrido[2,1-a][2]benzazepine | 0.09 mmol, 32 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1C(N2C(C3=C(C1)C=CC=C3)CCC=C2)=O | C22H18N2O3
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | formic acid | 200 μL | C(=O)O | CH2O2
reactant | water | 10 mL | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (S)-7-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,3,4,6,7,8,12b-octahydro-6-oxopyrido[2,1-a][2]benzazepine-4-carboxylic acid | O=C1N(C(C2=CC=CC=C12)=O)C1C(N2C(C3=C(C1)C=CC=C3)CCC[C@H]2C(=O)O)=O | C23H20N2O5
